US08304443B2
Tert-butyl6-(tert-butyldiphenylsilyloxy)-3-cyclopropylindazole-1-carboxylate
6-(Tert-butyldiphenylsilyloxy)-3-cyclopropylindazole (4.70 g) which can be prepared according to the method described in Reference example 5, etc. was dissolved in dehydrated THF (113 mL; manufactured by Kanto Chemical Co., Inc.), and added with triethylamine (1.905 mL; manufactured by Kokusan Chemical Co., Ltd.), DMAP (0.721 g; manufactured by Wako Pure Chemical Industries, Ltd.) and Boc2O (3.14 mL), followed by stirring overnight at room temperature. The reaction solution was concentrated under reduced pressure, and the residue was purified by column chromatography (“COLUMN-A”; n-hexane:ethyl acetate=100:0→490:10) to obtain the title compound (8.02 g).

reactant | 6-(Tert-butyldiphenylsilyloxy)-3-cyclopropylindazole | 4.70 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C(=NNC2=C1)C1CC1 | C26H28N2OSi
reactant | triethylamine | 1.905 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 3.14 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 113 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.721 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | Tert-butyl6-(tert-butyldiphenylsilyloxy)-3-cyclopropylindazole-1-carboxylate | 8.02 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC=C(C=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1CC1 | C31H36N2O3Si
